US08492378B2
1,1-dimethyl-2-[2-[2-[[4-(methylthio)phenyl]amino]isonicotinoyl]hydrazino]-2-oxoethyl acetate
To a solution of 2-[[4-(methylthio)phenyl]amino]isonicotinohydrazide (513 mg, 1.87 mmol) in N,N-dimethylacetamide (5 mL) was added dropwise 2-chloro-1,1-dimethyl-2-oxoethyl acetate (0.294 mL, 2.06 mmol) under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from hexane/ethyl acetate to give the title compound (624 mg, yield 83%) as colorless crystals.

reactant | 2-[[4-(methylthio)phenyl]amino]isonicotinohydrazide | 1.87 mmol, 513 mg | CSC1=CC=C(C=C1)NC=1C=C(C(=O)NN)C=CN1 | C13H14N4OS
reactant | 2-chloro-1,1-dimethyl-2-oxoethyl acetate | 2.06 mmol, 0.294 mL | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethyl-2-[2-[2-[[4-(methylthio)phenyl]amino]isonicotinoyl]hydrazino]-2-oxoethyl acetate | 624 mg, yield 83% | C(C)(=O)OC(C(=O)NNC(C1=CC(=NC=C1)NC1=CC=C(C=C1)SC)=O)(C)C | C19H22N4O4S
